*
* Low-Pass Filter + Limiter
*

* forces current values to be saved
.options savecurrents

******************************************
* input voltage source
vS 0 1 0.0 sin(0 220 50)
* vS 1 0 0 sin(0 5 400)


Ci 2 3 8u
Ri 2 3 4k

* positive limiter
Dp1 0 3 Default
Dp2 2 1 Default
Dp3 1 3 Default
Dp4 2 0 Default

*pre source v(3) -v(2)

R2 3 4 3k
Dn4 4 2 Default
Dn4 4 5 Default
Dn5 5 6 Default
Dn6 6 7 Default
Dn7 7 8 Default
Dn8 8 9 Default
Dn9 9 10 Default
Dn10 10 11 Default
Dn11 11 12 Default
Dn12 12 13 Default
Dn13 13 14 Default
Dn14 14 15 Default
Dn15 15 16 Default
Dn16 16 17 Default
Dn17 17 18 Default
Dn18 18 19 Default
Dn19 19 2 Default



.model Default D
.op
.end

.control

******************************************
* analise no tempo
tran 5e-4 100e-3
* tran 1e-5 10e-3

* plot v(3)-v(2) v(1)

******************************************
hardcopy solution1.ps v(4)-v(2)
echo solution1_FIG

hardcopy solution12.ps (v(4)-v(2)-12)
echo solution12_FIG

hardcopy solution2.ps v(3)-v(2)
echo solution2_FIG

* .endc

* .measure tran yavg4 AVG v(4) from=20m to=80m
* .measure tran yavg2 AVG v(2) from=20m to=80m

* .measure tran YavgDiff param='yavg4 - yavg2'

* *nao serve
* .measure tran v4max MAX v(4) from=20m to=80m
* .measure tran v2max MAX v(2) from=20m to=80m
* .measure tran v4min MIN v(4) from=50m to=80m
* .measure tran v2min MIN v(2) from=50m to=80m

* .measure tran ripple1 param='v4max - v2min'
* .measure tran ripple2 param='v4min - v2max'


