*
* Low-Pass Filter + Limiter
*

* forces current values to be saveD
.options savecurrents

******************************************
* input voltage source
*vfonte 22 23 0.0 sin(0 230 50)



vS 0 23 0.0 sin(0 220 50)
* vS 1 0 0 sin(0 5 400) 
*vs 20
G1 0 23 0 1 0.090909
Ex 0 1 0 23 0.090909

C1 2 3 11u
R1 2 3 7k 

* positive limiter
Dp1 0 3 default
Dp2 2 1 default
Dp3 1 3 default
Dp4 2 0 default


*pre source v(3) -v(2)

R2 3 4 3k
Dn4 4 5 default
Dn5 5 6 default
Dn6 6 7 default
Dn7 7 8 default
Dn8 8 9 default
Dn9 9 10 default
Dn10 10 11 default
Dn11 11 12 default
Dn12 12 13 default
Dn13 13 14 default
Dn14 14 15 default
Dn15 15 16 default
Dn16 16 17 default
Dn17 17 18 default
Dn18 18 19 default
Dn19 19 20 default
Dn20 20 21 default
Dn21 21 2 default




.model Default D
.op
.enD

.control

******************************************
* analise no tempo
tran 5e-4 120e-3 20e-3
* tran 1e-5 10e-3

plot v(3)-v(2)

******************************************
hardcopy solution1.ps v(4)-v(2)
echo solution1_FIG

hardcopy solution12.ps (v(4)-v(2)-12)
echo solution12_FIG

hardcopy solution2.ps v(3)-v(2)
echo solution2_FIG

echo "Values (average and ripple)"
print mean(v(4)-v(2))
print mean(v(3)-v(2))
print maximum(v(4)-v(2))-minimum(v(4)-v(2))
print maximum(v(3)-v(2))-minimum(v(3)-v(2))
echo "Cost and merit"
print  (18+(22*0.1)) 
print 1/ ( (18+(22*0.1)) * (maximum(v(4)-v(2))-minimum(v(4)-v(2)) + mean(v(4)-v(2)- 12)+1e-6) ) 


echo "End"

.endc


